US07531553B2
Preparation XIV: (R)-N-[3-(1-Methyl-pyrrolidin-2-ylmethoxy)-4-trifluoromethyl-phenyl]-acetamide.
To a solution of (R)-N-[3-(pyrrolidin-2-ylmethoxy)-4-trifluoromethyl-phenyl]-acetamide (0.85 g, 2.81 mmol) in 25 mL CH3CN was added 1.13 mL formaldehyde (37% in H2O) and NaBH3CN (0.28 g, 4.50 mmol). The reaction was stirred for 1 h, and the pH of the reaction was neutralized every 15 min by introducing several drops of AcOH. The reaction was concentrated in vacuo and dissolved into Et2O and 6 N NaOH. The layers were separated, and the organic layer was washed twice with 6N NaOH and extracted with 6 N HCl twice. The acidic aqueous layer was basified with NaOH pellets and extracted 4 times with CH2Cl2. The CH2Cl2 layers were combined, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography to yield the title compound.

reactant | (R)-N-[3-(pyrrolidin-2-ylmethoxy)-4-trifluoromethyl-phenyl]-acetamide | 2.81 mmol, 0.85 g | N1[C@H](CCC1)COC=1C=C(C=CC1C(F)(F)F)NC(C)=O | C14H17F3N2O2
reactant | formaldehyde | 1.13 mL | C=O | CH2O
reactant | NaBH3CN | 4.50 mmol, 0.28 g | [BH3-]C#N.[Na+]
solvent | CH3CN | 25 mL | CC#N | C2H3N
catalyst | AcOH | several drops | CC(=O)O | C2H4O2
product | (R)-N-[3-(1-Methyl-pyrrolidin-2-ylmethoxy)-4-trifluoromethyl-phenyl]-acetamide | CN1[C@H](CCC1)COC=1C=C(C=CC1C(F)(F)F)NC(C)=O | C15H19F3N2O2
